2184-09-05 02:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * Anion gap closed yesterday AM and insulin pump was restarted. Patient
   was noted to have difficulty using pump given her blindness, which was
   confirmed by patient's outpatient endocrinologist, Dr. [**Last Name (STitle) 354**] and this
   is felt to be the likely
    contributor to recurrent DKA.
   * Despite restarting Insulin pump, FS increased to > 300, suggesting
   malfunctioning pump and patient was restarted on Insulin gtt.
   Discussion with outpatient endocrinologist resulted in plan to give 14
   [**Location 355**] with a sliding scale and
    discontinuing Insulin pump until it is replaced on Monday by Dr. [**Last Name (STitle) 354**]
   * Once weaned off of Insulin gtt, patient was persistently hypoglycemic
   with 14 units of Lantus and was thus continued on D5 1/2 NS while
   essentially NPO overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-4**] 12:02 PM
   Dextrose 50% - [**2184-9-5**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-5**] 02:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 73 (71 - 92) bpm
   BP: 101/39(67) {82/32(42) - 110/70(115)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
             Total In:
                                                                  5,901 mL
                                                                    297 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  3,371 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,401 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   11.7 g/dL
   78 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   20 mg/dL
   110 mEq/L
   140 mEq/L
   32.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2184-9-3**]  11:26 PM
                             [**2184-9-4**]  03:57 AM
                             [**2184-9-4**]  05:04 PM
                             [**2184-9-4**]  11:36 PM
   WBC
   16.2
   Hct
   32.6
   Plt
   303
   Cr
   1.0
   1.0
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   322
   82
   316
   53
   Other labs: CK / CKMB / Troponin-T:120/6/<0.01, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   80 y.o. female with DM1, here with DKA.
   DM/DKA: Resolved s/p Insulin gtt x 2. Currently, Insulin pump does not
   seem to be working and patient has demonstrated difficulty using it due
   to her blindness. Per discussion with primary endocrinologist, patient
   is to be on Lantus 14 U with a sliding scale while she awaits a new
   Insulin pump, to be brought in by primary endocrinologist on Monday.
   Patient has had some hypoglycemia since starting Lantus and was on D5
   NS overnight.
   - Decrease Lantus to 10 u QHS and use SS
   - Wean D5
 NS as patient continues with PO
   -Continue to monitor FS while on Lantus/SS
   - Patient will need teaching and VNA on discharge as  her blindness was
   likely the reason she went into
     DKA
   Leukocytosis: Resolved. Likely in the setting of stress. Still
   afebrile, hemodynamically stable and cultures are negative.
   -Continue to monitor
   ARF: Resolved and suspected to be pre-renal in nature given dehydration
   with DKA. UOP had decreased overnight and IVF was increased.
   -Continue to monitor creatinine
   -Continue to monitor UOP
   FEN
   -Diabetic diet
   -Correct/Replete electrolytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-4**] 12:04 AM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  N/A
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical Exam:
   GEN: NAD
   HEENT: PERRLA, EOMI, sclera anicteric, OP clear, MMM, no LAD, no
   carotid bruits. No JVD.
   CV: regular, nl s1 s2, II/VI SEM.
   PULM: CTAB, no r/r/w.
   ABD: soft, NT, ND, + BS, no HSM.
   EXT: warm, 2+ dp/radial pulses BL, no femoral bruits.
   NEURO: alert & oriented x 3, CN II-XII grossly intact. 5/5 strength
   symmetric @ triceps, biceps, delts, hip flexion, dorsoflexion,
   plantarflexion. sensation grossly intact.
   ------ Protected Section Addendum Entered By:[**Name (NI) 367**] [**Last Name (NamePattern1) 353**], MD
   on:[**2184-9-5**] 11:48 ------

2184-09-05 10:04:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 F PMH type 1 DM managed with an insulin pump, macular degeneration
   with legal blindness admitted with her second episode of DKA in the
   past 4 months.  Suspect that the precipitating event is dyfunction of
   the insulin pump, including in part her inability to appropriately use
   it.
   24 Hour Events:
   -Resumed insulin drip
   -Started lantus
   -Hypoglycemia requiring D5 infusion
   -Low UOP
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-4**] 12:02 PM
   Dextrose 50% - [**2184-9-5**] 12:35 AM
   Other medications:
   Lantus 14 units
   Humalog SS
   Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: Legally blind
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2184-9-5**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 72 (66 - 92) bpm
   BP: 129/57(74) {86/38(54) - 134/70(115)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
             Total In:
                                                                  5,901 mL
                                                                  1,315 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  3,371 mL
                                                                  1,290 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    825 mL
   Urine:
                                                                    500 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,401 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal) 2/6 systolic murmur.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   268 K/uL
   78 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   20 mg/dL
   110 mEq/L
   140 mEq/L
   32.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2184-9-3**]  11:26 PM
                             [**2184-9-4**]  03:57 AM
                             [**2184-9-4**]  05:04 PM
                             [**2184-9-4**]  11:36 PM
                             [**2184-9-5**]  05:01 AM
   WBC
   16.2
   10.3
   Hct
   32.6
   32.7
   Plt
   303
   268
   Cr
   1.0
   1.0
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   322
   82
   316
   53
   78
   Other labs: CK / CKMB / Troponin-T:120/6/<0.01, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: None.
   Microbiology: Urine - Negative
   Assessment and Plan
   80 F PMH type 1 DM managed with an insulin pump, macular degeneration
   resulting in legal blindness who is admitted with DKA.  Suspect this
   may have been triggered by pump dysfunction.  Her sugars are now
   controlled, but she has had some hypoglycemia requiring D5 after her
   first dose of lantus.
   1)       DM
 Decrease lantus to 10 units.  Continue humalog SS.  DC D5
   and encourage po intake.  Dr. [**Last Name (STitle) 354**] will bring in a new pump for her
   tomorrow and we will have to review her ability to manage this at home
   and whether additional home services would be helpful.  We will also
   ask Dr. [**Last Name (STitle) 354**] about ASA, ACEI and statin use.
   2)       ARF
 Resolved.  UOP improved after IVF.
   3)       Metabolic disarray
 Resolved.
   ICU Care
   Nutrition: Diabetic.
   Glycemic Control:  Lantus, humalog
   Lines: Peripheral IV
   20 Gauge - [**2184-9-4**] 12:04 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: None.
   VAP: N/A.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Possible transfer to floor this afternoon if sugars
   stable.
   Total time spent:
   Patient seen and examined with ICU team whose note above I agree with.
   80 yo with DM I, admitted with DKA, now improved.  Off insulin drip,
   and called out for transfer to floor.

2184-09-06 06:08:00 Physician Resident Progress Note
Chief Complaint: 80 y.o. female with DM1, here with DKA.
   24 Hour Events:
   Lantus decreased to 10U
   Persistently difficult to control blood sugars with 2 episodes
   hypoglycemia
   C/o sore throat, afebrile, throat without exudate.  Culture obtained.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-5**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-6**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 74 (66 - 97) bpm
   BP: 116/54(69) {111/43(61) - 155/103(109)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
                  Total In:
                                                                  2,685 mL
                                                                    150 mL
   PO:
                                                                  1,110 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,550 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    900 mL
   Urine:
                                                                  2,575 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                   -750 mL
   Respiratory support
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: NAD
   HEENT: PERRLA, EOMI, sclera anicteric, OP clear, MMM, no LAD, no
   carotid bruits. No JVD.
   CV: regular, nl s1 s2, II/VI SEM.
   PULM: CTAB, no r/r/w.
   ABD: soft, NT, ND, + BS, no HSM.
   EXT: warm, 2+ dp/radial pulses BL, no femoral bruits.
   NEURO: alert & oriented x 3, CN II-XII grossly intact. 5/5 strength
   symmetric @ triceps, biceps, delts, hip flexion, dorsoflexion,
   plantarflexion. sensation grossly intact.
   Labs / Radiology
   272 K/uL
   12.3 g/dL
   158 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   35.7 %
   6.1 K/uL
        [image002.jpg]
   Throat culture pending
                             [**2184-9-3**]  11:26 PM
                             [**2184-9-4**]  03:57 AM
                             [**2184-9-4**]  05:04 PM
                             [**2184-9-4**]  11:36 PM
                             [**2184-9-5**]  05:01 AM
                             [**2184-9-5**]  06:17 PM
                             [**2184-9-6**]  03:56 AM
   WBC
   16.2
   10.3
   6.1
   Hct
   32.6
   32.7
   35.7
   Plt
   [**Telephone/Fax (3) 372**]
   Cr
   1.0
   1.0
   0.8
   0.7
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   322
   82
   316
   53
   78
   143
   158
   Other labs: PT / PTT / INR:12.2/43.0/1.0, CK / CKMB /
   Troponin-T:120/6/<0.01, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80 y.o. female with DM1, here with DKA.
   DM/DKA: Resolved s/p Insulin gtt x 2. Currently, patient remains off
   insulin pump, has demonstrated difficulty using it due to her
   blindness. Per discussion with primary endocrinologist, patient
   remained on Lantus with a sliding scale while she awaited a new Insulin
   pump.  Dr [**Last Name (STitle) 354**] decided to hold off on new pump and continue lantus +
   SS.  FS cont. to be widely variable going from 94->400s after eating
   breakfast.
   - Cont. Lantus to 10 u QHS and use SS
   -Continue to monitor FS while on Lantus/SS
   - Patient will need teaching and VNA on discharge as  her blindness was
   likely the reason she went into
     DKA.  Dr. [**Last Name (STitle) 354**] requests VNA to prefill her syringes at home to
   assist with more accurate delivery.
   Leukocytosis: Resolved. Likely in the setting of stress. Still
   afebrile, hemodynamically stable and cultures are negative.
   -f/u throat culture
   -Continue to monitor
   ARF: Resolved and suspected to be pre-renal in nature given dehydration
   with DKA.
   -Continue to monitor
   FEN
   -Diabetic diet
   -Correct/Replete electrolytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-4**] 12:04 AM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  N/A
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-09-06 10:54:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   converted to long acting insulin
   per Dr [**Last Name (STitle) 354**] will not return to use of pump but stay on long acting
   insulin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-6**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 84 (70 - 106) bpm
   BP: 119/51(68) {111/43(61) - 159/103(109)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
                  Total In:
                                                                  2,685 mL
                                                                    250 mL
   PO:
                                                                  1,110 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,550 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  1,600 mL
   Urine:
                                                                  2,575 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                 -1,350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   272 K/uL
   158 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   35.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2184-9-3**]  11:26 PM
                             [**2184-9-4**]  03:57 AM
                             [**2184-9-4**]  05:04 PM
                             [**2184-9-4**]  11:36 PM
                             [**2184-9-5**]  05:01 AM
                             [**2184-9-5**]  06:17 PM
                             [**2184-9-6**]  03:56 AM
   WBC
   16.2
   10.3
   6.1
   Hct
   32.6
   32.7
   35.7
   Plt
   [**Telephone/Fax (3) 372**]
   Cr
   1.0
   1.0
   0.8
   0.7
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   322
   82
   316
   53
   78
   143
   158
   Other labs: PT / PTT / INR:12.2/43.0/1.0, CK / CKMB /
   Troponin-T:120/6/<0.01, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80 F PMH type 1 DM managed with an insulin pump, macular degeneration
   resulting in legal blindness who is admitted with DKA.  Suspect this
   may have been triggered by pump dysfunction.  Her sugars are now
   controlled, but she has had some hypoglycemia requiring D5 after her
   first dose of lantus.
   1)       DM
 Decrease lantus to 10 units.  Continue humalog SS.  DC D5
   and encourage po intake.  Dr. [**Last Name (STitle) 354**] will bring in a new pump for her
   tomorrow and we will have to review her ability to manage this at home
   and whether additional home services would be helpful.  We will also
   ask Dr. [**Last Name (STitle) 354**] about ASA, ACEI and statin use.
   2)       ARF
 Resolved.  UOP improved after IVF.
   3)       Metabolic disarray
 Resolved.
   ICU Care
   Nutrition: [**Doctor First Name **] diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-4**] 12:04 AM
   Prophylaxis:
   DVT: sc hep
   Communication:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: